US05294721
1-(Methoxycarbonylmethyl)pyridinium Chloride (II)
Pyridine (1 equivalent) and methyl chloroacetate (1 equivalent) in ethyl acetate were heated (80° C.) for 24 hours. The reaction mixture was cooled to room temperature and the resulting crystalline pyridinium salt filtered, washed with ethyl acetate, and dried in vacuum.

reactant | Pyridine | 1 equivalent | N1=CC=CC=C1 | C5H5N
reactant | methyl chloroacetate | 1 equivalent | ClCC(=O)OC | C3H5ClO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(Methoxycarbonylmethyl)pyridinium Chloride | [Cl-].COC(=O)C[N+]1=CC=CC=C1 | InChI=1S/C8H10NO2.ClH/c1-11-8(10)7-9-5-3-2-4-6-9;/h2-6H,7H2,1H3;1H/q+1;/p-1
